US07943652B2
A mixture of 3-{2-[2-(4-bromo-phenyl)-4-methyl-piperazin-1-yl]-ethyl}-pyrazolo[1,5-a]pyridine (1.0 g, 2.49 mmol), methyl acrylate (0.458 mL, 4.98 mmol), N-methyldicyclohexylamine (584 mg, 2.99 mmol), tri-(tert-butyl)phosphine-tetrafluoroborate (28.9 mg, 0.0997 mmol) and Pd2(dba)3 (22.8 mg, 0.02 mmol) in 1,4-dioxane (10 mL) was flushed with nitrogen and heated at 100° C. for 1 h and at 135° C. for 1 h under microwave irradiation. The reaction mixture was cooled to room temperature, filtered through Celite pad, and concentrated in vacuo. Purification via flash silica gel column chromatography (heptane/ethyl acetate) gave (E)-3-{4-[4-methyl-1-(2-pyrazolo[1,5-a]pyridin-3-yl-ethyl)-piperazin-2-yl]-phenyl}-acrylic acid methyl ester (0.978 g, 97% yield). LCMS (m/z): 405.30 (M+1).

reactant | 3-{2-[2-(4-bromo-phenyl)-4-methyl-piperazin-1-yl]-ethyl}-pyrazolo[1,5-a]pyridine | 2.49 mmol, 1.0 g | BrC1=CC=C(C=C1)C1N(CCN(C1)C)CCC=1C=NN2C1C=CC=C2 | C20H23BrN4
reactant | methyl acrylate | 4.98 mmol, 0.458 mL | C(C=C)(=O)OC | C4H6O2
reactant | N-methyldicyclohexylamine | 2.99 mmol, 584 mg | CN(C1CCCCC1)C1CCCCC1 | C13H25N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 22.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-(tert-butyl)phosphine tetrafluoroborate | 0.0997 mmol, 28.9 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.F[B-](F)(F)F
product | (E)-3-{4-[4-methyl-1-(2-pyrazolo[1,5-a]pyridin-3-yl-ethyl)-piperazin-2-yl]-phenyl}-acrylic acid methyl ester | 0.978 g, 97% yield | COC(\C=C\C1=CC=C(C=C1)C1N(CCN(C1)C)CCC=1C=NN2C1C=CC=C2)=O | C24H28N4O2
